US05254755
As another example, the 2-difluoromethyl-1,1,3,3-tetrafluoro-2-propanol may be prepared by fluorinating commercially available 1,1,3-trichloro-2-propanone to form 1,1,3-trifluoro-2-propanone which may then be reacted with CF2 carbene to form 2-fluoromethyl-1,1,3,3-tetrafluoro-1-propene. The 2-fluoromethyl-1,1,3,3-tetrafluoro-1-propene may then be hydrogenated to form 2-fluoromethyl-1,1,3,3-tetrafluoropropane. The 2-fluoromethyl-1,1,3,3-tetrafluoropropane may then be dehydrogenated to form 2-difluoromethyl-1,3,3-trifluoro-1-propene which may then be reacted with hydrogen fluoride to form 2-difluoromethyl-1,1,3,3-tetrafluoropropane. The 2-difluoromethyl-1,1,3,3-tetrafluoropropane may then be dehydrogenated and then reacted with sulfuric acid and then water to form 2-difluoromethyl-1,1,3,3-tetrafluoro-2-propanol.

reactant | 2-difluoromethyl-1,1,3,3-tetrafluoropropane | FC(C(C(F)F)C(F)F)F | C4H4F6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-difluoromethyl-1,1,3,3-tetrafluoro-2-propanol | FC(C(C(F)F)(C(F)F)O)F | C4H4F6O
